US07122666B2
1(i) 4-Ethoxycarbonyl-2-(4-fluorophenyl)-3-(pyridin-4-yl)-1H-pyrrole
36 ml (54.7 mmol) of a 1.53 N solution of butyllithium in hexane were added to 240 ml of tetrahydrofuran. A solution of 15.90 g (54.7 mmol) of α-(p-toluenesulfonyl)-4-fluorobenzylisonitrile in 120 ml of tetrahydrofuran was then added to the resulting solution at −45° C., followed by stirring of the resulting mixture for 10 minutes at the same temperature. At the end of this time, 25.00 g (273 mmol) of 95% lithium bromide were added, the resulting mixture was stirred for 30 minutes and then a solution of 8.73 g (49.2 mmol) of ethyl 3-(4-pyridyl)acrylate in 120 ml of tetrahydrofuran was added. The resulting mixture was stirred at the same temperature for 1 hour and then the cooling bath was removed and the mixture was stirred at room temperature for a further 1 hour. At the end of this time, 500 ml of water were added and the resulting mixture was extracted with ethyl acetate. The organic extract was washed with water and then dried over anhydrous sodium sulfate, after which it was concentrated by evaporation under reduced pressure to afford a solid. The solid was washed with diethyl ether to give 13.61 g (yield 89%) of the title compound as a pale yellow powder.

reactant | butyllithium | C(CCC)[Li]
reactant | α-(p-toluenesulfonyl)-4-fluorobenzylisonitrile | 54.7 mmol, 15.90 g | C1(=CC=C(C=C1)S(=O)(=O)C(C1=CC=C(C=C1)F)[N+]#[C-])C | C15H12FNO2S
reactant | lithium bromide | 273 mmol, 25.00 g | [Br-].[Li+]
reactant | ethyl 3-(4-pyridyl)acrylate | 49.2 mmol, 8.73 g | N1=CC=C(C=C1)C=CC(=O)OCC | C10H11NO2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 240 ml | O1CCCC1 | C4H8O
product | 4-Ethoxycarbonyl-2-(4-fluorophenyl)-3-(pyridin-4-yl)-1H-pyrrole | 13.61 g, yield 89% | C(C)OC(=O)C=1C(=C(NC1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C18H15FN2O2
